US06610704B1
Preparation of N-(4-Chlorophenyl)-2-[1-(4-pyridyl)piperidin-4-ylmethyl]aminopyridine-3-methylamine
A solution of N-(4-chlorophenyl)-2-[1-(4-pyridyl)piperidin-4-ylmethyl]aminopyridine-3-carboxamide (25 mg, 0.059 mmol) in THF (1 mL) was treated with lithium aluminum hydride (1.0 M in THF, 0.21 mL, 0.21 mmol). The mixture was heated at 65° C. for 4 days, cooled, diluted with methanol (5 mL), and loaded onto an SCX ion exchange resin. The resin was eluted with methanol followed by 2 N NH3 in methanol and fractions containing the desired material were concentrated. The residue was triturated with EtOAc, yielding 15 mg (62%) of the title compound.

reactant | N-(4-chlorophenyl)-2-[1-(4-pyridyl)piperidin-4-ylmethyl]aminopyridine-3-carboxamide | 0.059 mmol, 25 mg | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)NCC1CCN(CC1)C1=CC=NC=C1 | C23H24ClN5O
reactant | lithium aluminum hydride | 0.21 mmol, 1.0 M, 0.21 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | N-(4-Chlorophenyl)-2-[1-(4-pyridyl)piperidin-4-ylmethyl]aminopyridine-3-methylamine | 15 mg, 62% | ClC1=CC=C(C=C1)NCC=1C(=NC=CC1)NCC1CCN(CC1)C1=CC=NC=C1 | C23H26ClN5
